US08895583B2
Step A. 1-(4-bromophenyl)-4-(2,2,2-trifluoroethyl)piperazine
To a suspension of 1-(4-bromophenyl)piperazine (1.24 g, 5.16 mmol) in DCM were added 2,2,2-trifluoroethyl trifluoromethanesulfonate (1.20 mL, 7.22 mmol) and cesium carbonate (5.04 g, 15.0 mmol). The resulting mixture was stirred for 30 min. The reaction mixture was then quenched with saturated aqueous ammonium chloride solution, extracted with ethyl acetate, the organic layer was collected and concentrated in vacuo. Purification by chromatography on silica gel (0 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 324.8 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 7.34 (d, J=9.1 Hz, 2 H),6.78 (d, J=9.0 Hz, 2 H),3.19-3.16 (m, 4 H),3.03 (q, J=9.5 Hz, 2 H),2.84-2.81 (m, 4 H).

reactant | 1-(4-bromophenyl)piperazine | 5.16 mmol, 1.24 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 7.22 mmol, 1.20 mL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | cesium carbonate | 15.0 mmol, 5.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-bromophenyl)-4-(2,2,2-trifluoroethyl)piperazine | BrC1=CC=C(C=C1)N1CCN(CC1)CC(F)(F)F | C12H14BrF3N2
